US08530483B2
N-(2,6-Dichloro-pyridin-3-yl)-4-methoxy-benzamide (3.86 g, 13.0 mmol) and K2CO3 (1.80 g, 13 mmol) were combined in DMF (15 mL) and heated by microwave to 160° C. for 30 minutes. The resulting mixture was poured into water (100 mL) causing the formation of a precipitate which was collected by filtration and washed with additional water before drying overnight in vacuo. The resulting solid was purified with silica gel flash chromatography (0-60% EtOAc in hexanes) to afford 5-chloro-2-(4-methoxy-phenyl)-oxazolo[5,4-b]pyridine (2.0 g, 7.67 mmol, 59.1% yield) which was used in subsequent reactions without further purification. ES MS (M+H+)=261.

reactant | N-(2,6-Dichloro-pyridin-3-yl)-4-methoxy-benzamide | 13.0 mmol, 3.86 g | ClC1=NC(=CC=C1NC(C1=CC=C(C=C1)OC)=O)Cl | C13H10Cl2N2O2
reactant | K2CO3 | 13 mmol, 1.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-chloro-2-(4-methoxy-phenyl)-oxazolo[5,4-b]pyridine | 7.67 mmol, 2.0 g, 59.1% yield | ClC1=CC=C2C(=N1)OC(=N2)C2=CC=C(C=C2)OC | C13H9ClN2O2
